US07541466B2
Step 1) Preparation of 3-Isopropoxy-4-methoxybenzoic acid
To a stirred solution of methyl 3-hydroxy-4-methoxybenzoate (3.00 g, 16.5 mmol), isopropanol (1.9 mL, 24.8 mmol) and triphenylphosphine (5.40 g, 20.6 mmol) in ethyl acetate (70 mL) was added, dropwise, diethyl azodicarboxylate (3.9 mL, 25 mmol). The reaction was allowed to proceed overnight and then washed with aqueous sodium bicarbonate solution, dried (sodium sulfate) and concentrated. The resulting yellow oil was taken up in 1:1:1 tetrahydrofuran/methanol/1 N aqueous sodium hydroxide (120 mL) and heated at reflux. After 4 hours additional 1 N aqueous sodium hydroxide (10 mL) was added and the mixture was stirred at room temperature overnight. The reaction was then concentrated to remove organic solvents and diluted with water. After washing several times with ethyl acetate, the solution was stirred and acidified with 1 N aqueous hydrochloric acid (50 mL). The resulting precipitate was filtered off, rinsed with water and vacuum oven dried to afford 2.83 g (82%) of product as a white solid: 1H NMR (DMSO-d6) δ 12.64 (s, 1H), 7.53 (dd, J=8.4, 1.8 Hz, 1H), 7.41 (d, J=1.8 Hz, 1H), 7.03 (d, J=8.4 Hz, 1H), 4.55 (sept, J=6.0 Hz, 1H), 3.71 (s, 3H) ppm.

reactant | methyl 3-hydroxy-4-methoxybenzoate | 16.5 mmol, 3.00 g | OC=1C=C(C(=O)OC)C=CC1OC | C9H10O4
reactant | isopropanol | 24.8 mmol, 1.9 mL | C(C)(C)O | C3H8O
reactant | triphenylphosphine | 20.6 mmol, 5.40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 25 mmol, 3.9 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
product | 3-Isopropoxy-4-methoxybenzoic acid | 2.83 g, 82% | C(C)(C)OC=1C=C(C(=O)O)C=CC1OC | C11H14O4
